US04070539
To a solution of ethyl (1-oxo-2-ethyl-6,7-dichloro-5-indanyloxy)acetate (19.8 g., 0.060 mole) in carbon tetrachloride (200 ml.) is added N-bromosuccinimide (11.32 g., 0.0636 mole) and α,α1 -azodiisobutyronitrile (425 mg.). The mixture is heated at reflux for 10 minutes, cooled to room temperature and filtered to remove succinimide. The filtrate is washed with water and then dried over anhydrous magnesium sulfate. The solvent is removed under reduced pressure to afford ethyl (1-oxo-2-ethyl-3-bromo-6,7-dichloro-5-indanyloxy)acetate which is dissolved in pyridine (40 ml.) and heated at 80° C. for 30 minutes. The solution is then cooled to room temperature and poured into 1.2 N hydrochloric acid (400 ml.). The product is extracted with chloroform and the combined extracts are washed with water and dried over anhydrous magnesium sulfate. The solvent is removed under reduced pressure to afford 16.8 g. of a crude product which is then recrystallized from methanol to afford substantially pure ethyl (1-oxo-2 -ethyl-6,7-dichloroinden-5-yloxy)acetate, m.p. 141°-143° C.

reactant | ethyl (1-oxo-2-ethyl-6,7-dichloro-5-indanyloxy)acetate | 0.060 mole, 19.8 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)OCC)CC | C15H16Cl2O4
reactant | N-bromosuccinimide | 0.0636 mole, 11.32 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azodiisobutyronitrile | 425 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl (1-oxo-2-ethyl-3-bromo-6,7-dichloro-5-indanyloxy)acetate | O=C1C(C(C2=CC(=C(C(=C12)Cl)Cl)OCC(=O)OCC)Br)CC | C15H15BrCl2O4
